US07897607B2
Methyl 5-chloro-4-oxo-1,4-dihydrocinnoline-3-carboxylate
A mixture of 4.2 g (16 mmol) of methyl 3-(2-chloro-6-fluorophenyl)-2-hydrazono-3-oxopropionate in 12 mL of triglyme was heated to 140° C. for 48 h. The slurry was then cooled to room temperature and the precipitate was collected by filtration. The precipitate was washed with diisopropyl ether and dried in vacuo to give 2.55 g (66%) of the title compound as a tan powder.

reactant | methyl 3-(2-chloro-6-fluorophenyl)-2-hydrazono-3-oxopropionate | 16 mmol, 4.2 g | ClC1=C(C(=CC=C1)F)C(C(C(=O)OC)=NN)=O | C10H8ClFN2O3
solvent | triglyme | 12 mL | COCCOCCOCCOC | C8H18O4
product | Methyl 5-chloro-4-oxo-1,4-dihydrocinnoline-3-carboxylate | 2.55 g, 66% | ClC1=C2C(C(=NNC2=CC=C1)C(=O)OC)=O | C10H7ClN2O3
